### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): Order of vanishing of elements of the function field of locally noetherian, integral schemes

### PR DESCRIPTION
**Pull request by Raph-DG**
In this PR, we define the order of vanishing of elements of the function field of locally noetherian, integral schemes at points of codimension 1. This is essentially just a wrapper around the API for the order of vanishing for rings (i.e. Ring.ord and Ring.ordFrac), but I think it's good to have this too for usability.

---

- [x] depends on: #29550
- [x] depends on: #26735

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+variable [IsLocallyNoetherian X]
+
+/--
+On a locally Noetherian integral scheme, we define the order of vanishing of an element of the
+function field `f` at a point `Z` of codimension `1` to be `Ring.ordFrac (X.presheaf.stalk Z) f`.
+Because of this definition, `Scheme.ord` is valued in `ℤᵐ⁰`.
+-/
+noncomputable
+def ord (Z : X) (hZ : coheight Z = 1) : X.functionField →*₀ ℤᵐ⁰ :=
+  have : Ring.KrullDimLE 1 _ := krullDimLE_of_coheight hZ
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
  have : Ring.KrullDimLE 1 (X.presheaf.stalk Z) := krullDimLE_of_coheight hZ
```

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+
+variable {X : Scheme.{u}}
+
+namespace AlgebraicGeometry
+namespace Scheme
+
+lemma krullDimLE_of_coheight
+    {Z : X} {n : ℕ} (hZ : coheight Z = n) : Ring.KrullDimLE n (X.presheaf.stalk Z) := by
+  rw [Ring.krullDimLE_iff, ringKrullDim_stalk_eq_coheight Z]
+  exact_mod_cast hZ.le
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: This could go in an earlier file, `#find_home!` suggests AlgebraicGeometry/Properties

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+lemma exists_isUnit_germ_eq (f : X.functionField) (hf : f ≠ 0) :
+    ∃ U : X.Opens, ∃ f' : Γ(X, U), ∃ _ : Nonempty U,
+    X.germToFunctionField U f' = f ∧ IsUnit f' := by
+  obtain ⟨U, hU, g, hg⟩ := TopCat.Presheaf.germ_exist _ _ f
+  have : Nonempty U := ⟨_, hU⟩
+  have : Nonempty (X.basicOpen g) := by
+    rw [Scheme.Opens.nonempty_iff]
+    apply (Opens.ne_bot_iff_nonempty (X.basicOpen g)).mp
+    intro a
+    simp_all
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
  have : Nonempty (X.basicOpen g) := by
    rw [Scheme.Opens.nonempty_iff, ← Opens.ne_bot_iff_nonempty (X.basicOpen g)]
    aesop
```

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+def ord (Z : X) (hZ : coheight Z = 1) : X.functionField →*₀ ℤᵐ⁰ :=
+  have : Ring.KrullDimLE 1 _ := krullDimLE_of_coheight hZ
+  Ring.ordFrac (X.presheaf.stalk Z)
+
+/--
+The order of vanishing of a non-zero element of the function field at any point is not zero. Since
+`Scheme.ord` is valued in `ℤᵐ⁰`, `0` does not denote a value of `ℤ` but an added `⊥` element.
+-/
+lemma ord_ne_zero {Z : X} (hZ : coheight Z = 1) {f : X.functionField} (hf : f ≠ 0) :
+    Scheme.ord Z hZ f ≠ 0 := (map_ne_zero (Scheme.ord Z hZ)).mpr hf
```
Comment (dagurtomas) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
    Scheme.ord Z hZ f ≠ 0 := by
  rwa [map_ne_zero]
```

**Review by dagurtomas — APPROVED** [review]
Here are a few minor comments. You say "This is essentially just a wrapper around the API for the order of vanishing for rings (i.e. Ring.ord and Ring.ordFrac), but I think it's good to have this too for usability." -- I think the fact that there is some work required to even be able to state the definition is a good reason to have this. But it would be good to get a second opinion, I'll unassign myself

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean (hunk 3 above)
Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: Thanks for the nice suggestions! Just wondering, what's the status of aesop now (i.e. is it alright to use it in cases like this)? For context I also have a preference for using it when it closes goals nicely like this, but at some point I was told to stop using it because there aren't many people maintaining it and maybe there are some performance issues associated with it.

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 5]
```diff
@@ -91,6 +91,21 @@ instance functionField_isScalarTower [IrreducibleSpace X] (U : X.Opens) (x : U)
   change _ = (X.presheaf.germ U x x.2 ≫ _).hom
   rw [X.presheaf.germ_stalkSpecializes]
 
+@[simp]
+lemma Scheme.germToFunctionField_map {X : Scheme} [IrreducibleSpace X] {U V : X.Opens}
+    (i : U ⟶ V) [Nonempty U] [Nonempty V] (f : Γ(X, V)) :
+    X.germToFunctionField U (X.presheaf.map i.op f) = X.germToFunctionField V f :=
+  X.presheaf.germ_res_apply i _ _ f
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]: I think we should try making `TopCat.Sheaf.germ_res_apply` a `simp` lemma instead and see if this lemma is still necessary.

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 6]
```diff
@@ -0,0 +1,60 @@
...
+variable [IsIntegral X] [IsLocallyNoetherian X]
+
+/--
+On a locally Noetherian integral scheme, we define the order of vanishing of an element of the
+function field `f` at a point `Z` of codimension `1` to be `Ring.ordFrac (X.presheaf.stalk Z) f`.
+Because of this definition, `Scheme.ord` is valued in `ℤᵐ⁰`.
+-/
+noncomputable
+def ord (Z : X) (hZ : coheight Z = 1) : X.functionField →*₀ ℤᵐ⁰ :=
+  have : Ring.KrullDimLE 1 (X.presheaf.stalk Z) := krullDimLE_of_coheight hZ
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
  haveI : Ring.KrullDimLE 1 (X.presheaf.stalk Z) := krullDimLE_of_coheight hZ
```

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 7]
```diff
@@ -91,6 +91,21 @@ instance functionField_isScalarTower [IrreducibleSpace X] (U : X.Opens) (x : U)
...
+
+lemma Scheme.germToFunctionField_eq_algebraMap_germ {X : Scheme} [IrreducibleSpace X]
+    {U : X.Opens} [Nonempty U] {x : X} (hx : x ∈ U) (f : Γ(X, U)) :
+    X.germToFunctionField U f =
+      algebraMap (X.presheaf.stalk x) X.functionField (X.presheaf.germ U x hx f) := by
+  let : Algebra Γ(X, U) (X.presheaf.stalk x) := X.presheaf.algebra_section_stalk ⟨x, hx⟩
+  have : IsScalarTower Γ(X, U) (X.presheaf.stalk x) X.functionField :=
+    functionField_isScalarTower X U ⟨x, hx⟩
+  exact IsScalarTower.algebraMap_apply Γ(X, U) (X.presheaf.stalk x) X.functionField f
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]:
```suggestion
  simp [RingHom.algebraMap_toAlgebra, ← ConcreteCategory.comp_apply]
```

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 8]
```diff
@@ -91,6 +91,21 @@ instance functionField_isScalarTower [IrreducibleSpace X] (U : X.Opens) (x : U)
...
+@[simp]
+lemma Scheme.germToFunctionField_map {X : Scheme} [IrreducibleSpace X] {U V : X.Opens}
+    (i : U ⟶ V) [Nonempty U] [Nonempty V] (f : Γ(X, V)) :
+    X.germToFunctionField U (X.presheaf.map i.op f) = X.germToFunctionField V f :=
+  X.presheaf.germ_res_apply i _ _ f
+
+lemma Scheme.germToFunctionField_eq_algebraMap_germ {X : Scheme} [IrreducibleSpace X]
+    {U : X.Opens} [Nonempty U] {x : X} (hx : x ∈ U) (f : Γ(X, U)) :
+    X.germToFunctionField U f =
+      algebraMap (X.presheaf.stalk x) X.functionField (X.presheaf.germ U x hx f) := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]: The RHS looks more complicated to me, so I would turn the equality around. Then you can also make it `simp`.

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 9]
```diff
@@ -166,4 +181,20 @@ instance [IsIntegral X] (x : X) :
 instance [IsIntegral X] {x : X} : IsDomain (X.presheaf.stalk x) :=
   Function.Injective.isDomain _ (IsFractionRing.injective (X.presheaf.stalk x) (X.functionField))
 
+/--
+For `f` an element of the function field of `X`, there exists some open set `U ⊆ X` such that
+`f` is a unit in `Γ(X, U)`.
+-/
+lemma exists_isUnit_germ_eq [IsIntegral X] (f : X.functionField) (hf : f ≠ 0) :
+    ∃ U : X.Opens, ∃ f' : Γ(X, U), ∃ _ : Nonempty U,
+    X.germToFunctionField U f' = f ∧ IsUnit f' := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]: Could you please upgrade the open to an affine open here?

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 10]
```diff
@@ -0,0 +1,60 @@
...
+@[expose] public section
+
+open WithZero AlgebraicGeometry Order TopologicalSpace CategoryTheory
+
+universe u
+
+variable {X : Scheme.{u}}
+
+namespace AlgebraicGeometry
+namespace Scheme
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
namespace AlgebraicGeometry.Scheme
```
Please do the same below.

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 11]
```diff
@@ -0,0 +1,60 @@
...
+
+/--
+On a locally Noetherian integral scheme, we define the order of vanishing of an element of the
+function field `f` at a point `Z` of codimension `1` to be `Ring.ordFrac (X.presheaf.stalk Z) f`.
+Because of this definition, `Scheme.ord` is valued in `ℤᵐ⁰`.
+-/
+noncomputable
+def ord (Z : X) (hZ : coheight Z = 1) : X.functionField →*₀ ℤᵐ⁰ :=
+  have : Ring.KrullDimLE 1 (X.presheaf.stalk Z) := krullDimLE_of_coheight hZ
+  Ring.ordFrac (X.presheaf.stalk Z)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: I could imagine that passing around the `coheight Z = 1` condition can become annoying. How is it in practice? Instead of having a `coheight Z = 1` assumption, we could:
- Make `ord` take some junk value at points that are not of codimension `1`, or
- Use `Ring.KrullDimLE 1 (X.presheaf.stalk Z)` as a typeclass argument instead, or
- Add an `abbrev Scheme.CoheightEqOne` for the above condition.

Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: Yeah this is a good point, it is indeed a bit annoying to have all these `coheight Z = 1` assumptions floating around. I think I like your junk value suggestion the most - this is basically the function that's used in the definition of principal divisors so this should only simplify things in the applications I have in mind.

EDIT: After discussing some more with Christian in person, we decided that it would be best to make ord valued in the integers. So now ord has a junk value of 0 if you feed in the 0 function (as well as if you feed in a point whose codimension is different from 1)

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 12]
```diff
@@ -91,6 +91,13 @@ instance functionField_isScalarTower [IrreducibleSpace X] (U : X.Opens) (x : U)
   change _ = (X.presheaf.germ U x x.2 ≫ _).hom
   rw [X.presheaf.germ_stalkSpecializes]
 
+@[simp]
+lemma Scheme.algebraMap_germ_eq_germToFunctionField {X : Scheme} [IrreducibleSpace X]
+    {U : X.Opens} [Nonempty U] {x : X} (hx : x ∈ U) (f : Γ(X, U)) :
+    algebraMap (X.presheaf.stalk x) X.functionField (X.presheaf.germ U x hx f) =
+    X.germToFunctionField U f := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]:
```suggestion
      X.germToFunctionField U f := by
```

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 13]
```diff
@@ -171,4 +178,29 @@ instance [IsIntegral X] (x : X) :
 instance [IsIntegral X] {x : X} : IsDomain (X.presheaf.stalk x) :=
   Function.Injective.isDomain _ (IsFractionRing.injective (X.presheaf.stalk x) (X.functionField))
 
+/--
+For `f` an element of the function field of `X`, there exists some open set `U ⊆ X` such that
+`f` is a unit in `Γ(X, U)`.
+-/
+lemma exists_isUnit_germ_eq [IsIntegral X] (f : X.functionField) (hf : f ≠ 0) :
+    ∃ U ∈ X.affineOpens, ∃ f' : Γ(X, U), ∃ _ : Nonempty U,
+    X.germToFunctionField U f' = f ∧ IsUnit f' := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]:
```suggestion
      X.germToFunctionField U f' = f ∧ IsUnit f' := by
```

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 14]
```diff
@@ -171,4 +178,29 @@ instance [IsIntegral X] (x : X) :
...
+  obtain ⟨U, hU, g, hg⟩ := X.presheaf.exists_germ_eq f
+  obtain ⟨_, ⟨A, hA, rfl⟩, hxA, hAU⟩ :=
+    X.isBasis_affineOpens.exists_subset_of_mem_open hU U.isOpen
+  have : Nonempty A := ⟨_, hxA⟩
+  set gA : Γ(X, A) := X.presheaf.map (homOfLE hAU).op g with hgA_def
+  have h_germ_gA : X.presheaf.germ A (genericPoint X) hxA gA = f := by
+    rw [hgA_def]
+    exact (X.presheaf.germ_res_apply (homOfLE hAU) (genericPoint X) hxA g).trans hg
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]:
```suggestion
  let gA : Γ(X, A) := X.presheaf.map (homOfLE hAU).op g
  have h_germ_gA : X.presheaf.germ A (genericPoint X) hxA gA = f := by
    simp only [← hg, ← X.presheaf.germ_res_apply (homOfLE hAU) (genericPoint X) hxA g, gA]
    rfl
```

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/FunctionField.lean]: The `Eq.trans` is a bit of a red-flag, as it allows arbitrary def-eq abuse. The terminal `rfl` is a bit easier to diagnose.

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 15]
```diff
@@ -171,4 +178,29 @@ instance [IsIntegral X] (x : X) :
...
+  have hxV : genericPoint X ∈ X.basicOpen gA := by
+    rw [Scheme.mem_basicOpen X gA (genericPoint X) hxA, h_germ_gA]
+    exact isUnit_iff_ne_zero.mpr hf
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]:
```suggestion
    rwa [Scheme.mem_basicOpen X gA (genericPoint X) hxA, h_germ_gA, isUnit_iff_ne_zero]
```

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 16]
```diff
@@ -171,4 +178,29 @@ instance [IsIntegral X] (x : X) :
...
+  have : Nonempty (X.basicOpen gA) := ⟨⟨_, hxV⟩⟩
+  refine ⟨X.basicOpen gA, hA.basicOpen gA,
+      X.presheaf.map (X.basicOpen_le gA).hom.op gA, ‹_›, ?_,
+      X.toRingedSpace.isUnit_res_basicOpen gA⟩
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean]:
```suggestion
  refine ⟨X.basicOpen gA, hA.basicOpen gA,
    X.presheaf.map (X.basicOpen_le gA).hom.op gA, ‹_›, ?_,
    X.toRingedSpace.isUnit_res_basicOpen gA⟩
```

File: Mathlib/AlgebraicGeometry/FunctionField.lean [hunk 17]
```diff
@@ -171,4 +178,29 @@ instance [IsIntegral X] (x : X) :
...
+  simpa using h_germ_gA
+
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/FunctionField.lean:203]:
```suggestion
```

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 18]
```diff
@@ -0,0 +1,150 @@
...
+universe u
+
+variable {X : Scheme.{u}}
+
+namespace AlgebraicGeometry.Scheme
+
+variable [IsIntegral X] [IsLocallyNoetherian X]
+
+/--
+Order of vanishing on a locally Noetherian integral scheme as a monoid with zero hom to `ℤᵐ⁰`
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
Order of vanishing on a locally Noetherian integral scheme as a monoid with zero hom to `ℤᵐ⁰`.
```

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 19]
```diff
@@ -0,0 +1,150 @@
...
+-/
+noncomputable
+def ordHom (z : X) (hz : coheight z = 1) : X.functionField →*₀ ℤᵐ⁰ :=
+  haveI : Ring.KrullDimLE 1 (X.presheaf.stalk z) := krullDimLE_of_coheight_le hz.le
+  Ring.ordFrac (X.presheaf.stalk z)
+
+lemma ordHom_ne_zero {Z : X} (hZ : coheight Z = 1) {f : X.functionField} (hf : f ≠ 0) :
+    ordHom Z hZ f ≠ 0 := (map_ne_zero _).mpr hf
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: I am not sure we need this lemma as it is just a special case of `map_ne_zero`.

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 20]
```diff
@@ -0,0 +1,150 @@
...
+
+lemma ordHom_of_isUnit {U : X.Opens}
+    [Nonempty U] {f : Γ(X, U)} (hf : IsUnit f) {x : X} (hx : coheight x = 1) (hx' : x ∈ U) :
+    ordHom x hx (X.germToFunctionField U f) = 1 := by
+  have : Ring.KrullDimLE 1 ↑(X.presheaf.stalk x) := krullDimLE_of_coheight_le hx.le
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
  have : Ring.KrullDimLE 1 (X.presheaf.stalk x) := krullDimLE_of_coheight_le hx.le
```

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 21]
```diff
@@ -0,0 +1,150 @@
...
+  exact Ring.ordFrac_of_isUnit (hf.map (X.presheaf.germ U x hx').hom)
+
+/--
+The order of vanishing of an element of the function field of a locally Noetherian integral scheme
+at a point. This has a junk value of `0` if `f = 0` or if `coheight z ≠ 1`.
+-/
+noncomputable
+def ord (f : X.functionField) (z : X) : ℤ :=
+  if hz : coheight z = 1
+  then Multiplicative.toAdd <| WithZero.recZeroCoe 1 id <| X.ordHom z hz f
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
  then Multiplicative.toAdd <| (X.ordHom z hz f).recZeroCoe 1 id
```

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 22]
```diff
@@ -0,0 +1,150 @@
...
+  else 0
+
+lemma ord_eq_ordHom_of_coheight_eq_one {z : X} (hz : coheight z = 1) (f : X.functionField) :
+    ord f z = Multiplicative.toAdd (WithZero.recZeroCoe 1 id <| X.ordHom z hz f) := dif_pos hz
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]:
```suggestion
    ord f z = Multiplicative.toAdd ((X.ordHom z hz f).recZeroCoe 1 id) := dif_pos hz
```

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 23]
```diff
@@ -0,0 +1,150 @@
...
+  have : Ring.KrullDimLE 1 ↑(X.presheaf.stalk x) := krullDimLE_of_coheight_le hx.le
+  rw [← algebraMap_germ_eq_germToFunctionField hx']
+  exact Ring.ordFrac_of_isUnit (hf.map (X.presheaf.germ U x hx').hom)
+
+/--
+The order of vanishing of an element of the function field of a locally Noetherian integral scheme
+at a point. This has a junk value of `0` if `f = 0` or if `coheight z ≠ 1`.
+-/
+noncomputable
+def ord (f : X.functionField) (z : X) : ℤ :=
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean:52]: We could consider `@[no_expose]` here to force users to use the characterising lemmas below instead.

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean [hunk 24]
```diff
@@ -0,0 +1,150 @@
...
+@[simp]
+lemma ord_zero_apply {z : X} : ord 0 z = 0 := by
+  by_cases h : coheight z = 1
+  · simp [ord_eq_ordHom_of_coheight_eq_one h]
+  · simp [h]
+
+@[simp]
+lemma ord_zero : ord (0 : X.functionField) = 0 := by
+  ext z
+  simp
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: I think we only need `ord_zero`, `ord_zero_apply` should be proven by `simp` from the former.

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean (hunk 21 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: IIRC, we discussed some time ago that we should have a `WithZero.unzeroD` (analogous to `WithBot.unbotD`), which you could use here instead of the `recZeroCoe`. If you provide some nice API for that, I expect that some of the proofs below will get much easier.

Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: Yeah at the time when I said this I also didn't know we had recZeroCoe, and so when I discovered that I thought it was good enough. But indeed you're right that it would be nicer to have some WithZero.unzeroD, I can add that

Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/OrderOfVanishing.lean]: I've added in some API for WithZero.unzeroD, and I've made some minor changes using it but I've been struggling to really make things easier with these lemmas. Can you think of any better ways to utilise this API?

File: Mathlib/AlgebraicGeometry/OrderOfVanishing.lean (hunk 23 above)
Comment (Raph-DG) [reply Mathlib/AlgebraicGeometry/OrderOfVanishing.lean:52]: Yeah I think that's reasonable, just added that in

File: Mathlib/Algebra/Group/WithOne/Defs.lean [hunk 25]
```diff
@@ -194,4 +194,36 @@ instance instCommMonoid [CommSemigroup α] : CommMonoid (WithOne α) where
...
+  simp [unoneD_eq_iff]
+
+@[to_additive]
+theorem unoneD_eq_unoneD_iff {d : α} {x y : WithOne α} :
+    unoneD d x = unoneD d y ↔ x = y ∨ x = d ∧ y = 1 ∨ x = 1 ∧ y = d := by
+  induction y <;> simp [unoneD_eq_iff, or_comm]
+
+@[to_additive]
+lemma unOneD_eq_unOne {d : α} {x : WithOne α} (hx : x ≠ 1) : unoneD d x = unone hx := by
+  simp [unoneD_eq_iff]
```
Comment (chrisflav) [inline Mathlib/Algebra/Group/WithOne/Defs.lean:227]: Can you also add `unone` -> `unzero` to the naming translation table?

**Comment by chrisflav** [comment]
There is a lint error now because `to_additive` got smarter.

**Review by chrisflav — APPROVED** [review]
Thanks! Reviewed in person in Orsay and Raphael directly pushed my suggestions to the PR.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
